US06903118B1
a) N-diphenylphosphinoyl-piperazine
20 g (84.5 mmol) diphenylphosphinate chloride dissolved in 30 ml DMF are added dropwise to a solution of 21.8 g (253 mmol) piperazine in DMF. After four hours, the solution is concentrated under vacuum, taken up in chloroform and extracted by shaking with 10% hydroxide solution. The organic phase is dried over sodium sulfate and solvent is removed under vacuum. The residue is chromatographically purified over silica gel with CHCl3/CH3OH/TEA (90/10/0 to 90/10/6): yield 12 g (49%).

reactant | diphenylphosphinate chloride | 84.5 mmol, 20 g | [Cl-].C1(=CC=CC=C1)P([O-])(=O)C1=CC=CC=C1
reactant | piperazine | 253 mmol, 21.8 g | N1CCNCC1 | C4H10N2
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | N-diphenylphosphinoyl-piperazine | C1(=CC=CC=C1)P(=O)(N1CCNCC1)C1=CC=CC=C1 | C16H19N2OP
